US07157447B2
Ethyl 3-(benzoyloxy)-10,10-dimethyl-4-oxo-6,7,8,10-tetrahydro-4H-pyrimido[2,1-c][1,4]oxazepine-2-carboxylate.
A solution of intermediate 33, ethyl 2-(2-(3-chloropropoxy)propan-2-yl)-5-hydroxy-6-oxo-1,6-dihydropyrimidine-4-carboxylate, (0.064 g, 0.2 mmol) in pyridine (1 mL) was treated with benzoic anhydride (0.047 g, 0.2 mmol) and stirred for 1 hr at 60° C. The solvent was removed and the residue taken up in N,N-dimethylformamide (1 mL) and treated with potassium carbonate (0.036 g, 0.2 mmol). The mixture was stirred for 1 hr at 80° C., and solvent was removed to give the title compound.

reactant | ethyl 2-(2-(3-chloropropoxy)propan-2-yl)-5-hydroxy-6-oxo-1,6-dihydropyrimidine-4-carboxylate | 0.2 mmol, 0.064 g | ClCCCOC(C)(C)C=1NC(C(=C(N1)C(=O)OCC)O)=O | C13H19ClN2O5
reactant | benzoic anhydride | 0.2 mmol, 0.047 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | potassium carbonate | 0.2 mmol, 0.036 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 3-(benzoyloxy)-10,10-dimethyl-4-oxo-6,7,8,10-tetrahydro-4H-pyrimido[2,1-c][1,4]oxazepine-2-carboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C2C(OCCCN2C1=O)(C)C)C(=O)OCC | C20H22N2O6
